US08030302B2
N-(Diphenylmethylene)-5-(2-fluoro-4-nitrophenoxy)-1-methyl-1H-indazol-6-amine
To a 10 mL microwave vial is added 6-bromo-5-(2-fluoro-4-nitrophenoxy)-1-methyl-1H-indazole (500 mg, 1.37 mmol), 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (73 mg, 123 μmol) and Pd2(dba)3 (38 mg, 41 μmol). The mixture is suspended in toluene (5 mL, 47 mmol) and benzophenone imine (272 mg, 1.5 mmol) and sodium tert-butoxide (203 mg, 2.05 mmol) are added. The mixture is heated at 150° C. for 20 min in a microwave reactor. After cooling, the reaction solution is concentrated to give a brown oil which is dissolved in DCM (150 mL) and washed with saturated aqueous sodium chloride (2×50 mL). The aqueous layers are combined and extracted with DCM (1×50 mL), dried with Na2SO4, filtered and concentrated to give a brown residue. The residue is purified on a silica gel column eluting with hexanes (A) and EtOAc (B), gradient from 85%(A): 15%(B) to 50%(A):50%(B) over 50 min to give a yellow solid material as the title compound (574 mg, 90.1% yield). MS (m/z): 467.2 (M+H).

reactant | 6-bromo-5-(2-fluoro-4-nitrophenoxy)-1-methyl-1H-indazole | 1.37 mmol, 500 mg | BrC1=C(C=C2C=NN(C2=C1)C)OC1=C(C=C(C=C1)[N+](=O)[O-])F | C14H9BrFN3O3
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 123 μmol, 73 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
reactant | toluene | 47 mmol, 5 mL | C1(=CC=CC=C1)C | C7H8
reactant | benzophenone imine | 1.5 mmol, 272 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | sodium tert-butoxide | 2.05 mmol, 203 mg | CC(C)([O-])C.[Na+]
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
catalyst | Pd2(dba)3 | 41 μmol, 38 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(Diphenylmethylene)-5-(2-fluoro-4-nitrophenoxy)-1-methyl-1H-indazol-6-amine | 574 mg, 90.1% yield | C1(=CC=CC=C1)C(=NC1=C(C=C2C=NN(C2=C1)C)OC1=C(C=C(C=C1)[N+](=O)[O-])F)C1=CC=CC=C1 | C27H19FN4O3
